US05310743
d) (2R*,4S*)-2-(4-Chlorobenzyl)-1-(3,5-dimethylbenzoyl)-4-piperidinamine
A suspension of 730 mg (1.83 mmol) of (2R*,4S*)-2-(4-chlorobenzyl)-1-(3,5-dimethylbenzoyl)-N-acetyl-4-piperidinamine in 6N hydrochloric acid is heated at 100°for 16 hours, during which the starting material dissolves. The reaction mixture is basified with 10% strength aqueous sodium carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude title compound is purified by chromatography on silica gel with dichloromethane/methanol/25% strength ammonia solution (90:10:0.1) as mobile phase and is obtained as almost colourless resin. TLC (dichloromethane/methanol/25% strength ammonia solution; 90:10:0.1): Rf =0.26;FD-MS: (M+1)+=357

reactant | (2R*,4S*)-2-(4-chlorobenzyl)-1-(3,5-dimethylbenzoyl)-N-acetyl-4-piperidinamine | 1.83 mmol, 730 mg | ClC1=CC=C(C[C@H]2N(CC[C@@H](C2)NC(C)=O)C(C2=CC(=CC(=C2)C)C)=O)C=C1 | C23H27ClN2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane methanol | ClCCl.CO
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 6N | Cl | ClH
product | (2R*,4S*)-2-(4-Chlorobenzyl)-1-(3,5-dimethylbenzoyl)-4-piperidinamine | ClC1=CC=C(C[C@H]2N(CC[C@@H](C2)N)C(C2=CC(=CC(=C2)C)C)=O)C=C1 | C21H25ClN2O
